US09227985B2
N-Methyl-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide (20 mg, 0.1 mmol) was dissolved in acetonitrile (3 mL) and acetic acid (2 mL), and cooled to 0° C., followed by addition of N-bromosuccinimide (20 mg, 0.1 mmol). The reaction mixture was stirred for 1 h and was then concentrated to give a crude residue. The residue was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate, washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude 7-bromo-N-methyl-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide (0.020 g, 50%). LCMS calculated for C16H14BrN4O3 (M+H)+: m/z=389.1, 391.1. found: 388.9, 390.9.

reactant | N-Methyl-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide | 0.1 mmol, 20 mg | CNC(=O)C1(COC2=C3N1C(NC3=CC=C2)=O)C2=NC=CC=C2 | C16H14N4O3
reactant | N-bromosuccinimide | 0.1 mmol, 20 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-bromo-N-methyl-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-4-carboxamide | 0.020 g, 50% | BrC1=CC=C2C=3N(C(COC31)(C(=O)NC)C3=NC=CC=C3)C(N2)=O | C16H13BrN4O3
